US05840732
i) Synthesis of imidazo[1,2-a]pyridin-5-acetic [3-(1,1,6,8-tetraoxo-9-phenyl-2,3,4,8-tetrahydropyrimido[6,1-b][1,3]thiazin-7-yl)propyl]amide
To a dichloromethane solution of 601 mg (2.5 mmol) of imidazo[1,2-a]pyridin-5-acetic acid and 383 mg (2.5 mmol) of HOBt, 479 mg (2.5 mmol) of WSC and 0.5 ml (3.6 mmol) of triethylamine were added. After the reaction mixture was stirred at 0° C. for 30 minutes, 1.158 g (3 mmol) of 3-(1,1,6,8-tetraoxo-9-phenyl-2,3,4,8-tetrahydropyrimido[6,1-b][1,3]thiazin-7-yl)propylamine hydrochloride and 0.84 ml (6 mmol) of triethylamine were added, followed by stirring at room temperature for 3 hours and then at 40° C. for 14 hours. After water was added, the mixture was extracted with dichloromethane and dried, after which the solvent was distilled off. The residue was purified by column chromatography (eluent, chloroform→chloroform/methanol=25/1) to yield 74.7 mg (5.9%, yellow oily substance) of the desired product.

reactant | imidazo[1,2-a]pyridin-5-acetic acid | 2.5 mmol, 601 mg | N=1C=CN2C1C=CC=C2CC(=O)O | C9H8N2O2
reactant | HOBt | 2.5 mmol, 383 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | WSC | 2.5 mmol, 479 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | triethylamine | 3.6 mmol, 0.5 ml | C(C)N(CC)CC | C6H15N
reactant | 3-(1,1,6,8-tetraoxo-9-phenyl-2,3,4,8-tetrahydropyrimido[6,1-b][1,3]thiazin-7-yl)propylamine hydrochloride | 3 mmol, 1.158 g | Cl.O=S1(C=2N(CCC1)C(N(C(C2C2=CC=CC=C2)=O)CCCN)=O)=O
reactant | triethylamine | 6 mmol, 0.84 ml | C(C)N(CC)CC | C6H15N
solvent | water | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
product | imidazo[1,2-a]pyridin-5-acetic [3-(1,1,6,8-tetraoxo-9-phenyl-2,3,4,8-tetrahydropyrimido[6,1-b][1,3]thiazin-7-yl)propyl]amide | O=S1(C=2N(CCC1)C(N(C(C2C2=CC=CC=C2)=O)CCCNC(CC2=CC=CC=1N2C=CN1)=O)=O)=O | C25H25N5O5S
